US08242280B2
200 mg (0.38 mmol) of 2,2-dimethyl-propionic acid 5-[3-(hydroxy-pyridin-2-yl-methyl)-phenyl]-3-(2-methoxy-phenyl)-pyrazolo[3,4-b]pyridin-1-ylmethyl ester was dissolved in 10 mL of ethanol. 10 mL of 2 M aqueous sodium hydroxide was added and the resulting mixture was left at room temperature for 5 h. The pH was adjusted to 8 by addition of concentrated aqueous hydrochloric acid and the resulting solution was distributed between chloroform and saturated aqueous sodium bicarbonate. The aqueous layer was extracted three times with chloroform. The combined organic phases were dried over sodium sulfate and evaporated. The residue was purified by flash chromatography on silica gel using a gradient of ethyl acetate in hexanes and then by mass-triggered reverse-phase HPLC to afford 67 mg (0.16 mmol, 43%) of {3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-pyridin-2-yl-methanol as an off-white solid. 1H NMR (500 MHz, DMSO-d6) α 13.84 (s, br., 1H), 8.80 (d, 1H), 8.46 (ddd, 1H), 8.28 (d, 1H), 7.80 (ddd, 1H), 7.77 (m, 1H), 7.67 (dd, 1), 7.64 (d, 1H), 7.61 (m, 1H), 7.47 (ddd, 1H), 7.43-7.42 (m, 2H), 7.24 (d, 1H), 7.23 (dd(d), 1H), 7.10 (ddd, 1H), 6.19 (s, br., 1H), 5.82 (s, br., 1H) 3.86 (s, 3H); MS: m/z 409.1 (M+H+).

reactant | 2,2-dimethyl-propionic acid 5-[3-(hydroxy-pyridin-2-yl-methyl)-phenyl]-3-(2-methoxy-phenyl)-pyrazolo[3,4-b]pyridin-1-ylmethyl ester | 0.38 mmol, 200 mg | OC(C=1C=C(C=CC1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COC(C(C)(C)C)=O)C2=NC=CC=C2 | C31H30N4O4
reactant | sodium hydroxide | 2 M, 10 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | {3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-pyridin-2-yl-methanol | 0.16 mmol, 67 mg, 43% | COC1=C(C=CC=C1)C1=NNC2=NC=C(C=C21)C=2C=C(C=CC2)C(O)C2=NC=CC=C2 | C25H20N4O2
